US05753679
0.856 g (0.00846 mol) of 4-hydroxypiperidine was dissolved in 40 ml of dimethylformamide and cooled to 0°. 2.0 g (0.0106 mol) of 4-fluorobenzyl bromide and 3.3 ml (0.0233 mol) of triethylamine were added under argon and the mixture was left to come to room temperature. It was stirred for 16 hrs., the solvent was distilled off and the residue was chromatographed on silica gel with dichloromethane/methanol (17:3) as the eluent. An analytically pure sample was obtained after a second chromatography on silica gel with dichloromethane/methanol (17:3) as the eluent. The remainder was used directly in the next step. 0.176 g (8%) of 1-(4-fluoro-benzyl-piperidin-4-ol was obtained as a yellow oil. MS: me/e=210 (C12H17FNO+).

reactant | 4-hydroxypiperidine | 0.00846 mol, 0.856 g | OC1CCNCC1 | C5H11NO
reactant | 4-fluorobenzyl bromide | 0.0106 mol, 2.0 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | triethylamine | 0.0233 mol, 3.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-benzyl-piperidin-4-ol | FC1=CC=C(CN2CCC(CC2)O)C=C1 | C12H16FNO
